US04017492
In the manner given in Example 9, 7-bromo-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine can be stirred with 4-methoxy-2-oxobutyric acid at room temperature to give 7-bromo-2-[(1-carboxy-3-methoxypropylidene)-hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-bromo-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | BrC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)Cl)C1 | C15H12BrClN4
reactant | 4-methoxy-2-oxobutyric acid | COCCC(C(=O)O)=O | C5H8O4
product | 7-bromo-2-[(1-carboxy-3-methoxypropylidene)-hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | BrC=1C=CC2=C(C(=NCC(=N2)NN=C(CCOC)C(=O)O)C2=C(C=CC=C2)Cl)C1 | C20H18BrClN4O3
